US08487094B2
To a solution of 6-allyl-3-(3-bromophenyl)-6-phenyl-1,3-oxazinan-2-one (50 mg, 0.134 mmol) and 2,4-difluorophenylboronic acid (40 mg, 0.215 mmol), K2CO3 (0.5 mL, 2 M) in 1,4-dioxane (1.5 ml) was slowly added Pd(Ph3)2Cl2 (10 mg, 20%) at 0° C. under N2. The mixture was refluxed overnight. The mixture was concentrated to give the crude product, which was purified by TLC and preparative HPLC to afford 6-allyl-3-(2′,4′-difluorobiphenyl-3-yl)-6-phenyl-1,3-oxazinan-2-one (10 mg, 18%). 1H NMR (400 MHz, CDCl3): δ=2.40 (m, 2H), 2.55-2.72 (m, 2H), 3.26 (m, 1H), 3.47 (m, 1H), 5.05 (m, 2H), 5.76 (m, 1H), 6.76-6.90 (m, 2H), 7.04 (m, 1H), 7.28 (m, 4H), 7.36 (m, 2H).

reactant | 6-allyl-3-(3-bromophenyl)-6-phenyl-1,3-oxazinan-2-one | 0.134 mmol, 50 mg | C(C=C)C1(CCN(C(O1)=O)C1=CC(=CC=C1)Br)C1=CC=CC=C1 | C19H18BrNO2
reactant | 2,4-difluorophenylboronic acid | 0.215 mmol, 40 mg | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | K2CO3 | 2 M, 0.5 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | 6-allyl-3-(2′,4′-difluorobiphenyl-3-yl)-6-phenyl-1,3-oxazinan-2-one | 10 mg, 18% | C(C=C)C1(CCN(C(O1)=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)F)F)C1=CC=CC=C1 | C25H21F2NO2
